US07807411B2
Step 1—Synthesis of Ethyl Magnesium Malonate
To a stirred aqueous solution of 1.5 M magnesium chloride and 3 M ethyl potassium malonate was added five volumes of isopropanol. After filtration, ethyl magnesium malonate was dried in vacuo.

reactant | magnesium chloride | 1.5 M | [Cl-].[Mg+2].[Cl-]
reactant | ethyl potassium malonate | 3 M | C(CC(=O)O)(=O)O.C(C)[K]
solvent | isopropanol | C(C)(C)O | C3H8O
product | Ethyl Magnesium Malonate | C(CC(=O)[O-])(=O)[O-].C(C)[Mg+2] | InChI=1S/C3H4O4.C2H5.Mg/c4-2(5)1-3(6)7;1-2;/h1H2,(H,4,5)(H,6,7);1H2,2H3;/q;;+2/p-2
